US07601716B2
7-(6-Morpholin-4-yl-pyridin-3-yl)-1-[5-(trifluoromethyl)furan-2-ylmethyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine
7-Iodo-1-[5-(trifluoromethyl)furan-2-ylmethyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine (60 mg) was reacted with 4-[5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)pyridin-2-yl]morpholine as in General Procedure 4A to give the title compound as an orange foam (30% yield). M.p. (foam), LCMS: m/z=446.13 (M+H+), 1H-NMR (CDCl3, 400 MHz) δ 3.42-3.47 (m, 2H), 3.48-3.54 (m, 4H), 3.58-3.67 (m, 2H), 3.80-3.89 (m, 4H), 4.47 (s, 1H), 5.02 (bs, 1H), 6.30 (s, 1H), 6.67 (d, J=5.2 Hz, 1H), 6.72 (s, 1H), 6.85 (s, 1H), 7.55-7.62 (m, 2H), 8.31 (s, 1H).

reactant | 7-Iodo-1-[5-(trifluoromethyl)furan-2-ylmethyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine | 60 mg | IC1=CC2=C(NCCN2CC=2OC(=CC2)C(F)(F)F)N=C1 | C13H11F3IN3O
reactant | 4-[5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)pyridin-2-yl]morpholine | CC1(OB(OC1(C)C)C=1C=CC(=NC1)N1CCOCC1)C | C15H23BN2O3
product | 7-(6-Morpholin-4-yl-pyridin-3-yl)-1-[5-(trifluoromethyl)furan-2-ylmethyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine | 30% yield | N1(CCOCC1)C1=CC=C(C=N1)C1=CC2=C(NCCN2CC=2OC(=CC2)C(F)(F)F)N=C1 | C22H22F3N5O2
